US07476741B2
4-(3-Bromo-4,5-dimethoxyphenyl)-3-cyano-7-ethyl-4H-indolo[4,5-b]pyran
A mixture of 4-(3-bromo-4,5-dimethoxy-phenyl)-3-cyano-4H-indolo[4,5-b]pyran (50 mg, 0.122 mmol), bromoethane (50 μL, 0.670 mmol) and cesium carbonate (122 mg, 0.375 mmol) in anhydrous THF (2 mL) was stirred at 60° C. in a sealed tube. After 22 h, additional bromoethane (100 μL, 1.34 mmol) was added and the reaction was continued for additional 43 h. The reaction mixture was diluted with EtOAc (20 mL). The insoluble material was filtered, and washed with EtOAc (30 mL). The EtOAc solution were combined, washed with brine (2×5 mL), dried over MgSO4, and evaporated to yield a light yellow solid. The crude product was purified by column chromatography (silica gel, EtOAc:hexanes, 1:3) to yield 27 mg (51%) of the product as an off-white solid. 1H NMR (CDCl3) 7.44 (d, J=0.9 Hz, 1H), 7.14 (d, J=3.3 Hz, 1H), 7.07 (dd, J=0.6, 8.4 Hz, 1H), 6.96 (d, J=1.8 Hz, 1H), 6.77 (d, J=1.8 Hz, 1H), 6.70 (d, J=8.4 Hz, 1H), 6.59 (dd, J=0.9, 3.3 Hz, 1H), 4.81 (s, 1H), 4.15 (q, J=7.2 Hz, 2H), 3.84 (s, 3H), 3.83 (s, 3H), 1.46 (t, J =7.2 Hz, 3H).

reactant | 4-(3-bromo-4,5-dimethoxy-phenyl)-3-cyano-4H-indolo[4,5-b]pyran | 0.122 mmol, 50 mg | BrC=1C=C(C=C(C1OC)OC)C1C=2C(OC=C1C#N)C1=CC=NC1=CC2 | C20H15BrN2O3
reactant | bromoethane | 0.670 mmol, 50 μL | BrCC | C2H5Br
reactant | cesium carbonate | 0.375 mmol, 122 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | bromoethane | 1.34 mmol, 100 μL | BrCC | C2H5Br
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 4-(3-Bromo-4,5-dimethoxyphenyl)-3-cyano-7-ethyl-4H-indolo[4,5-b]pyran | 27 mg, 51% | BrC=1C=C(C=C(C1OC)OC)C1C2=C(OC=C1C#N)C=1C=CN(C1C=C2)CC | C22H19BrN2O3
